US06686384B2
A mixture of 0.05 g of 2-(2,6-dichlorophenylamino)-5-methoxybenzimidazole hydrochloride, 0.5 ml of glacial acetic acid, and 0.5 ml of hydrobromic acid (48% strength) was boiled under reflux for 3 hours and the solvent was then distilled off. The solid residue was brought to crystallization under a little EA. 0.02 g of 2-(2,6-dichlorophenylamino)-5-hydroxybenzimidazole hydrobromide was obtained of melting point 265-269° C.

reactant | 2-(2,6-dichlorophenylamino)-5-methoxybenzimidazole hydrochloride | 0.05 g | Cl.ClC1=C(C(=CC=C1)Cl)NC=1NC2=C(N1)C=CC(=C2)OC
reactant | hydrobromic acid | 0.5 ml | Br | BrH
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 2-(2,6-dichlorophenylamino)-5-hydroxybenzimidazole hydrobromide | 0.02 g | Br.ClC1=C(C(=CC=C1)Cl)NC=1NC2=C(N1)C=CC(=C2)O | InChI=1S/C13H9Cl2N3O.BrH/c14-8-2-1-3-9(15)12(8)18-13-16-10-5-4-7(19)6-11(10)17-13;/h1-6,19H,(H2,16,17,18);1H
